US06949542B2
{4-(4-Fluoro-phenylethynyl)-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester
The title compound was prepared from [2-amino-4-(4-fluoro-phenylethynyl)-phenyl]-carbamic acid tert-butyl ester {CAS-No. [335255-58-0]} (245 mg, 0.75 mmol) and 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester (Example K1) (223 mg, 0.75 mmol) according to the general procedure M. Obtained as an orange foam (304 mg, 74%).

reactant | [2-amino-4-(4-fluoro-phenylethynyl)-phenyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=C(C=C1)F)N)=O | C19H19FN2O2
reactant | 3-oxo-3-(3-pyridin-3-yl-phenyl)-propionic acid tert-butyl ester | 0.75 mmol, 223 mg | C(C)(C)(C)OC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O | C18H19NO3
product | {4-(4-Fluoro-phenylethynyl)-2-[3-oxo-3-(3-pyridin-3-yl-phenyl)-propionylamino]-phenyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#CC1=CC=C(C=C1)F)NC(CC(C1=CC(=CC=C1)C=1C=NC=CC1)=O)=O)=O | C33H28FN3O4
